US05885986
1.09 g (0.00269 mol) of (S)-1-(5-dipropylaminomethyloxazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 20 ml of ethyl acetate were treated with 0.80 ml (0.00296 mol) of 3N ethanolic hydrochloric acid at 0°. After stirring at 0° for 1 hr. the white suspension was suction filtered. The beige crystals were recrystallized from hot acetonitrile. There was obtained 0.71 g (60%) of (S)-1-(5-dipropylaminomethyl-oxazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one hydrochloride (1:1) as light yellowish crystals; m.p. 227°-230° and [α]D20 =-168.8° (MeOH, c=1%).

reactant | (S)-1-(5-dipropylaminomethyloxazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.00269 mol, 1.09 g | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C23H27N5O2
reactant | hydrochloric acid | 0.00296 mol, 3N, 0.80 ml | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (S)-1-(5-dipropylaminomethyl-oxazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one hydrochloride | 0.71 g, 60% | Cl.C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | InChI=1S/C23H27N5O2.ClH/c1-3-10-26(11-4-2)14-16-13-24-22(30-16)20-21-19-9-12-27(19)23(29)17-7-5-6-8-18(17)28(21)15-25-20;/h5-8,13,15,19H,3-4,9-12,14H2,1-2H3;1H/t19-;/m0./s1
